US08466167B2
Step 2: 3-chloro-5-(trifluoromethyl)picolinonitrile
A solution of 3-chloro-5-(trifluoromethyl)picolinaldehyde oxime (1.0 eq.) and Burgess reagent (1.5 eq.) in tetrahydrofuran (0.5 M) was heated to 65° C. and stirred for 1 hour. The reaction was cooled to room temperature and diluted with ethyl acetate and water. The organic layer was washed with water, brine, dried over anhydrous MgSO4, and concentrated en vacuo to give a solid that was carried onto the next step without further purification.

reactant | 3-chloro-5-(trifluoromethyl)picolinaldehyde oxime | 1.0 eq. | ClC=1C(=NC=C(C1)C(F)(F)F)C=NO | C7H4ClF3N2O
reactant | Burgess reagent | 1.5 eq. | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | tetrahydrofuran | 0.5 M | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-chloro-5-(trifluoromethyl)picolinonitrile | ClC=1C(=NC=C(C1)C(F)(F)F)C#N | C7H2ClF3N2
